US07732444B2
Intermediate 152: (S)-tert-butyl 3-methyl-4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylsulfonyl)piperazine-1-carboxylate:
(S)-tert-butyl 4-(3-bromophenylsulfonyl)-3-methylpiperazine-1-carboxylate was cross-coupled to 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane as follows: Charge a round bottom flask with 1.1 equivalents 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane, 3 mol % PdCl2(dppf), and 3 equivalents potassium acetate. Purge with argon and add DMSO (2-mL) followed by 1.0 equivalent bromobenzene sulfonamide. Heat the mixture to 80° C., overnight, under argon. Add H2O (2 mL) and extract with ethyl acetate (20 mL). Wash organic layer with H2O and brine. Remove the solvent and purify the product by ISCO on silica gel (ethyl acetate as eluent). The yield was 93%. LC-MS showed the product was >95% pure and had the expected M+H+ of 467.

reactant | (S)-tert-butyl 4-(3-bromophenylsulfonyl)-3-methylpiperazine-1-carboxylate | BrC=1C=C(C=CC1)S(=O)(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)C | C16H23BrN2O4S
reactant | 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 1.1 equivalents | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 3 equivalents | C(C)(=O)[O-].[K+]
reactant | bromobenzene sulfonamide | 1.0 equivalent | BrC1=C(C=CC=C1)S(=O)(=O)N | C6H6BrNO2S
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-tert-butyl 3-methyl-4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylsulfonyl)piperazine-1-carboxylate | yield was 93% | C[C@H]1CN(CCN1S(=O)(=O)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C(=O)OC(C)(C)C | C22H35BN2O6S
